US04886835
Ethyl 2-mercaptoacetate (8.5 cc) is added in the course of 15 minutes at a temperature in the region of 20° C. to a stirred solution, through which a stream of nitrogen is passed, of a 2M ethanolic solution of sodium ethylate (37.5 cc) and ethanol (50 cc). The mixture is left with stirring for 15 minutes at the same temperature, and α-bromo-p-xylene (13.9 g) is then added in the course of 20 minutes at a temperature in the region of 20° C. Stirring is maintained for 60 minutes at this temperature, and the reaction mixture is then evaporated to dryness at 50° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue obtained is dissolved in dichloromethane (100 cc), and the organic phase is dried over anhydrous magnesium sulphate, filtered and concentrated to dryness at 40° C. under reduced pressure (20 mm Hg; 2.7 kPa). Ethyl (4-methylbenzylthio)acetate (15.6 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | Ethyl 2-mercaptoacetate | 8.5 cc | SCC(=O)OCC | C4H8O2S
reactant | sodium ethylate | 37.5 cc | CC[O-].[Na+]
reactant | ethanol | 50 cc | C(C)O | C2H6O
reactant | α-bromo-p-xylene | 13.9 g | BrCC1=CC=C(C=C1)C | C8H9Br
solvent | dichloromethane | 100 cc | ClCCl | CH2Cl2
product | Ethyl (4-methylbenzylthio)acetate | 15.6 g | CC1=CC=C(CSCC(=O)OCC)C=C1 | C12H16O2S
